US06194487B1
Next, in the mixing section 22, the vapor atmosphere of isophthaloyl chloride was cooled, and the introduced base particles were exposed thereto for 3 minutes. Consequently, a polymerization reaction, using as a catalyst sodium hydroxide contained in the base particles, took place on the surface of the base particles between glycerol and isophthaloyl chloride, forming a film of glycerol-isophthaloyl chloride co-polymer.

reactant | isophthaloyl chloride | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | glycerol | OCC(O)CO | C3H8O3
product | glycerol isophthaloyl chloride | OCC(O)CO.C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | InChI=1S/C8H4Cl2O2.C3H8O3/c9-7(11)5-2-1-3-6(4-5)8(10)12;4-1-3(6)2-5/h1-4H;3-6H,1-2H2
